US04269832
Preparation of 2,4,6-tris(1,1,2,2-tetramethylpropylamino)-s-triazine
3.3 g. (9.6 mmole) of 2-chloro-4,6-di(2,3,3-trimethyl-2-butyl)amino-s-triazine and 3.3 g. (30 mmoles) of 2,3,3-trimethyl-2-butylamine are heated at reflux (oil bath 185° C.) for 21 hours. Thin layer chromatography of a sample of the reaction mixture indicates a mixture of starting material and product in a ratio of 3:7. Heating is terminated and the reaction mixture is treated with excess aqueous NaOH. Filtration affords a 4.9 g. of crude beige product. This is digested with 15 ml. of hot acetone, filtered and 2.6 g. of beige solid collected, m.p. 278° C. dec. Recrystallization of this product from hot ethanol gives the pure product, m.p. 317°-321° C. dec.

reactant | 2-chloro-4,6-di(2,3,3-trimethyl-2-butyl)amino-s-triazine | 9.6 mmole | ClC1=NC(=NC(=N1)NC(C)(C(C)(C)C)C)NC(C)(C(C)(C)C)C | C17H32ClN5
reactant | 2,3,3-trimethyl-2-butylamine | 30 mmoles | CC(C)(C(C)(C)C)N | C7H17N
product | 2,4,6-tris(1,1,2,2-tetramethylpropylamino)-s-triazine | CC(C(C)(C)C)(C)NC1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C24H48N6
